US09034903B2
Synthesis of 1-(piperidin-4-yl)-3-(4-(trifluoromethyl)phenyl)urea (2)
tert-butyl 4-(3-(4-(trifluoromethyl)phenyl)ureido)piperidine-1-carboxylate (1.6 g, 4.13 mmol) was dissolved in HCl solution (2 M, MeOH, 100 mL). The resulting solution was refluxed for 2 h. The solvent was removed under vacuo and the crude was basified to pH 12 by NaOH solution (6N). The final precipitates (0.9 g, 3.13 mmol, 78%) were filtered and dried under high vacuum. The final product (PTU/2) was served as a scaffold for the following urea inhibitors synthesis. 1H NMR (d6-DMSO, 300 Mhz): ∂ 8.77 (s, 1H), 7.57 (s, 4H), 6.30 (d, J=7.8 Hz, 1H), 3.55 (m, 1H), 2.91 (d, J=12.6 Hz, 2H), 2.48 (d, J=11.1 Hz, 2H), 1.77 (d, J=11 Hz, 2H), 1.22 (m, 2H).

reactant | tert-butyl 4-(3-(4-(trifluoromethyl)phenyl)ureido)piperidine-1-carboxylate | 4.13 mmol, 1.6 g | FC(C1=CC=C(C=C1)NC(NC1CCN(CC1)C(=O)OC(C)(C)C)=O)(F)F | C18H24F3N3O3
solvent | HCl | 2 M, 100 mL | Cl | ClH
product | 1-(piperidin-4-yl)-3-(4-(trifluoromethyl)phenyl)urea | N1CCC(CC1)NC(=O)NC1=CC=C(C=C1)C(F)(F)F | C13H16F3N3O
